US05637613
1-(1,1-Dimethylethyl) 16-methyl 3-[[(1,1-dimethylethoxy)carbonyl]amino]-15-methoxy-14-oxo-2,4,13-triazahexadec-2-enedioate
By following a procedure analogous to the method of Preparation 18, using 3.5 g (23.65.10-3 mol) of methyl 2-methoxypropanedioate and 7 g (18.1.10-3 mol) of bis(1,1-dimethylethyl) [[(8-aminooctyl)imino]methylene]biscarbamate as the starting materials, 8.6 g (yield=95%) of the expected product are obtained in the form of a yellow oil.

reactant | methyl 2-methoxypropanedioate | 3.5 g | COC(C(=O)OC)C(=O)[O-]
reactant | bis(1,1-dimethylethyl) [[(8-aminooctyl)imino]methylene]biscarbamate | 7 g | NCCCCCCCCN=C(NC(OC(C)(C)C)=O)NC(OC(C)(C)C)=O | C19H38N4O4
product | 1-(1,1-Dimethylethyl) 16-methyl 3-[[(1,1-dimethylethoxy)carbonyl]amino]-15-methoxy-14-oxo-2,4,13-triazahexadec-2-enedioate | 8.6 g, yield=95% | CC(C)(OC(=O)NC(=NC(=O)OC(C)(C)C)NCCCCCCCCNC(C(C(=O)OC)OC)=O)C | C24H44N4O8
